US07700591B2
To a precooled (−78° C.) solution of 1.0M sodium bis(trimethylsilyl)amide in THF (13.1 mL, 13.1 mmol) was added dropwise under a nitrogen atmosphere a solution of tert-butyl 4-(3-methoxy-3-oxopropyl)piperidine-1-carboxylate (1.78 g, 6.56 mmol) in 11 mL of THF. After stirring for an additional 25 min, neat iodomethane (1.23 mL, 19.7 mmol) was added dropwise and the reaction mixture was stirred at −78° C. for two more h. The reaction mixture was then poured into 1N HCl solution and the resulting mixture was extracted twice with ether. The combined ethereal layers were washed with brine, dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 40% ethyl acetate/hexanes) gave tert-butyl 4-(3-methoxy-2-methyl-3-oxopropyl)piperidine-1-carboxylate.

reactant | sodium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 4-(3-methoxy-3-oxopropyl)piperidine-1-carboxylate | 6.56 mmol, 1.78 g | COC(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H25NO4
reactant | iodomethane | 19.7 mmol, 1.23 mL | IC | CH3I
reactant | HCl | 1N | Cl | ClH
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | THF | 13.1 mmol, 13.1 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-methoxy-2-methyl-3-oxopropyl)piperidine-1-carboxylate | COC(C(CC1CCN(CC1)C(=O)OC(C)(C)C)C)=O | C15H27NO4
